US05840749
2-(6,11-Dihydrodibenz[b,e]oxepin-2-yl)ethanol (14 g) and triethylamine (6.7 g) in 200 ml of dry dichloromethane was treated with methanesulfonylchloride (5.2 ml) and stirred at room temperature for 2 hours. This solution was evaporated to a paste, taken up in ethyl acetate, washed dried, and evaporated to an oil. Passage through a short pad of silica gel with chloroform as eluent gave 13.5 g of 2-(6,11-dihydrodibenz[b,e]-oxepin-2-yl)ethanol methanesulfonate as an oil.

reactant | 2-(6,11-Dihydrodibenz[b,e]oxepin-2-yl)ethanol | 14 g | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)CCO | C16H16O2
reactant | triethylamine | 6.7 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 5.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(6,11-dihydrodibenz[b,e]-oxepin-2-yl)ethanol methanesulfonate | 13.5 g | CS(=O)(=O)OCCC1=CC2=C(OCC3=C(C2)C=CC=C3)C=C1 | C17H18O4S
